US08252935B2
b) 2-(5-{1-[4-(4-Fluoro-phenoxy)-benzyl]-piperidin-3-yl}-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid
To compound 48a, 2-(5-{1-[4-(4-Fluoro-phenoxy)-benzyl]-piperidin-3-yl}-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid ethyl ester (52.3 mg, 0.08 mmol) in EtOH (5.0 ml) was added 2M KOH (0.40 ml, 0.8 mmol). The reaction was heated to 78° C. for 3 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (41 mg, 76%). 1H NMR (400 MHz, MeOD) δ ppm 0.90-0.96 (m, 6 H) 1.51 (ddd, J=13.08, 6.72, 6.60 Hz, 1 H) 1.68 (dt, J=13.76, 6.94 Hz, 1 H) 1.88-1.93 (m, 2 H) 1.95-2.03 (m, 1 H) 2.11 (s, 2 H) 3.06 (d, J=2.93 Hz, 2 H) 3.22 (t, J=12.96 Hz, 1 H) 3.48-3.57 (m, 2 H) 3.77 (t, J=7.70 Hz, 1 H) 4.33 (s, 2 H) 7.00-7.10 (m, 5 H) 7.14 (d, J=1.96 Hz, 1 H) 7.24-7.34 (m, 2 H) 7.44-7.50 (m, 2 H) 7.58 (s, 1 H) 7.74-7.83 (m, 4 H), Calcd for C37H37F4NO3 (M+H) 619.69, Found 620.4.

reactant | 2-(5-{1-[4-(4-Fluoro-phenoxy)-benzyl]-piperidin-3-yl}-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid ethyl ester | 0.08 mmol, 52.3 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC=C(C=C1)OC1=CC=C(C=C1)F)C1=CC=C(C=C1)C(F)(F)F)=O | C39H41F4NO3
reactant | KOH | 0.8 mmol, 2M, 0.40 ml | [OH-].[K+]
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 2-(5-{1-[4-(4-Fluoro-phenoxy)-benzyl]-piperidin-3-yl}-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid | FC1=CC=C(OC2=CC=C(CN3CC(CCC3)C=3C=C(C=C(C3)C3=CC=C(C=C3)C(F)(F)F)C(C(=O)O)CC(C)C)C=C2)C=C1 | C37H37F4NO3
